US04550103
A mixture of 100 g (0.43 mole) of methyl 5-oxo-1-(phenylmethyl)-3-pyrrolidinecarboxylate [J. Org. Chem., 26, 1519 (1961)], 500 ml methanol and 100 g (3.2 mole) of methylamine was heated at 100° C. in a pressure reactor for 16 hours. The reaction mixture was cooled and the excess methylamine and methanol were removed under reduced pressure. The residue was taken up in dichloromethane and washed with 3×100 ml 1N sodium hydroxide. The organic layer was dried over magnesium sulfate and the solvent removed at reduced pressure to give 88.3 g of N-methyl-5-oxo-1-(phenylmethyl)-3-pyrrolidinecarboxamide as a white solid, mp 82.5°-83.0° C.

reactant | methyl 5-oxo-1-(phenylmethyl)-3-pyrrolidinecarboxylate | 0.43 mole, 100 g | O=C1CC(CN1CC1=CC=CC=C1)C(=O)OC | C13H15NO3
reactant | methylamine | 3.2 mole, 100 g | CN | CH5N
solvent | methanol | 500 ml | CO | CH4O
product | N-methyl-5-oxo-1-(phenylmethyl)-3-pyrrolidinecarboxamide | 88.3 g | CNC(=O)C1CN(C(C1)=O)CC1=CC=CC=C1 | C13H16N2O2
